US07230007B2
50 cm3 of thionyl chloride were added to 3.4 g (11.8 mmol) of 1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid at a temperature in the region of 20° C. under an argon atmosphere. After stirring at reflux for 2 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa), triturated twice in succession with 30 cm3 of dichloromethane and then concentrated to dryness under reduced pressure (2.7 kPa) to give 11.8 mmol of 3-chlorocarbonyl-1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride in the form of a yellow powder which was used directly in the following stage.

reactant | 1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 11.8 mmol, 3.4 g | N1=CC=C(C2=CC=CC=C12)N1C=C(C=2C1=NC=CC2)C(=O)O | C17H11N3O2
reactant | thionyl chloride | 50 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 3-chlorocarbonyl-1-(quinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 11.8 mmol | Cl.ClC(=O)C1=CN(C2=NC=CC=C21)C2=CC=NC1=CC=CC=C21 | InChI=1S/C17H10ClN3O.ClH/c18-16(22)13-10-21(17-11(13)5-3-8-20-17)15-7-9-19-14-6-2-1-4-12(14)15;/h1-10H;1H
